US07820654B2
A mixture of compound 4,6-dichloro-2-phenyl-pyrimidine (27 g, 112 mmol), 4-trifluoromethoxy aniline (21 g, 119 mmol) and triethylamine (33 mL, 225 mmol) in n-butanol (300 mL) was refluxed for 20 hours under nitrogen atmosphere. The reaction mixture was then cooled to room temperature and concentrated under vacuum. The crude compound was passed through the silica gel by using 5-6% ethylacetate in petroleum ether to afford the compound (6-chloro-2-phenyl-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine (20 g, 46%) as off-white solid.

reactant | 4,6-dichloro-2-phenyl-pyrimidine | 112 mmol, 27 g | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | 4-trifluoromethoxy aniline | 119 mmol, 21 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | triethylamine | 225 mmol, 33 mL | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 300 mL | C(CCC)O | C4H10O
product | (6-chloro-2-phenyl-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine | 20 g, 46% | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC1=CC=C(C=C1)OC(F)(F)F | C17H11ClF3N3O
